US05374641
Ethyl 4-[2-(4-chlorobenzenesulfonamido)-1-(3-pyridyl)ethyl]-α-methylcinnamate (6.8 mg) was dissolved in 1 ml of methanol, followed by addition of 0.2 ml of aqueous 2N sodium hydroxide solution, and refluxed for 18 hours. The solvent was distilled off under reduced pressure. The crystalline deposited through neutralization of the resulting mixture with 2N hydrogen chloride was filtered, to obtain 6.4 mg of 4-[2-(4-chlorobenzenesulfonamido)-1-(3-pyridyl)ethyl]-α-methylcinnamic acid. The spectrometric data thereof supports the structural formula of [49] as follows.

reactant | Ethyl 4-[2-(4-chlorobenzenesulfonamido)-1-(3-pyridyl)ethyl]-α-methylcinnamate | 6.8 mg | ClC1=CC=C(C=C1)S(=O)(=O)NCC(C=1C=NC=CC1)C1=CC=C(C=C(C(=O)OCC)C)C=C1 | C25H25ClN2O4S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
product | 4-[2-(4-chlorobenzenesulfonamido)-1-(3-pyridyl)ethyl]-α-methylcinnamic acid | 6.4 mg | ClC1=CC=C(C=C1)S(=O)(=O)NCC(C=1C=NC=CC1)C1=CC=C(C=C(C(=O)O)C)C=C1 | C23H21ClN2O4S
